US08222416B2
A mixture of (Z)-1-benzenesulfonyl-2-[2-(1,4-dioxa-spiro[4.4]non-7-yl)-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (800 mg, 1.42 mmol) in ethanol (24 mL), tetrahydrofuran (16 mL) and an aqueous sodium hydroxide solution (10%, 4 mL) was heated at 45° C. for 3 h. The mixture was diluted with dichloromethane (50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford (Z)-2-[2-(1,4-dioxa-spiro[4.4]non-7-yl)-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (570 mg, 95%): LC/MS m/e calcd for C23H24FN2O4S [M+H]+ 425.52, observed 425.0.

reactant | (Z)-1-benzenesulfonyl-2-[2-(1,4-dioxa-spiro[4.4]non-7-yl)-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 1.42 mmol, 800 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)\C(=C/C2CC1(OCCO1)CC2)\C2=CC=C(C=C2)S(=O)(=O)C | C29H28N2O6S2
reactant | sodium hydroxide | 4 mL | [OH-].[Na+]
solvent | ethanol | 24 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (Z)-2-[2-(1,4-dioxa-spiro[4.4]non-7-yl)-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 570 mg, 95% | O1CCOC12CC(CC2)\C=C(\C2=CC=C(C=C2)S(=O)(=O)C)/C2=CC=1C(=NC=CC1)N2 | C23H24N2O4S
